US08003662B2
Step A: Preparation of benzyl 4-hydroxy-4-(trifluoromethyl)piperidine-1-carboxylate:
To a stirred solution of benzyl 4-oxopiperidine-1-carboxylate (308 g, 1.32 mol) in THF (1 L) cooled in an ice bath was added trimethyl(trifluoromethyl)silane (229 g, 1.61 mol) via an addition funnel over a period of 15 minutes. A 1.0 M solution of TBAF in THF (13.2 mL, 13.2 mmol) was slowly added dropwise to the mixture. After being stirred for 16 hours at ambient temperature, the mixture was charged with additional trimethyl(trifluoromethyl)silane (25.0 g, 176 mmol) and stirred for 2 hours. The mixture was concentrated to a volume of 500 mL, diluted with MeOH (3 L), cooled in an ice bath, and carefully quenched with concentrated aqueous HCl (250 mL). The mixture was removed from the ice bath, stirred for 1 hour, and concentrated in vacuo. The resulting aqueous suspension was extracted with CH2Cl2 (1 L, then 2×500 mL). The combined CH2Cl2 extracts were dried (MgSO4), filtered, and concentrated. The crude material was crystallized from toluene to give 357 g (89%) of product as a white solid.

reactant | benzyl 4-oxopiperidine-1-carboxylate | 1.32 mol, 308 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | trimethyl(trifluoromethyl)silane | 1.61 mol, 229 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | trimethyl(trifluoromethyl)silane | 176 mmol, 25.0 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
solvent | THF | 1 L | C1CCOC1 | C4H8O
catalyst | THF | 13.2 mmol, 13.2 mL | C1CCOC1 | C4H8O
product | benzyl 4-hydroxy-4-(trifluoromethyl)piperidine-1-carboxylate | 357 g, 89% | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C(F)(F)F | C14H16F3NO3
